US06329389B1
3-[3-(4-Methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propanoic acid
Methyl 3-[3-(4-methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propionate (2.4 g) was dissolved in a mixed solvent of ethanol (20 ml) and water (10 ml). Sodium hydroxide (3 g) was added to the reaction mixture, which was stirred at room temperature for one hour. The reaction mixture was concentrated. 2N hydrochloric acid was added to the residue to become acidic, which was extracted with ethyl acetate. The extract was washed with water, then dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain the entitled compound.

reactant | Methyl 3-[3-(4-methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propionate | 2.4 g | COC1=CC=C(C=C1)CC1=NOC(=N1)CCC(=O)OC | C14H16N2O4
reactant | Sodium hydroxide | 3 g | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 10 ml | O | H2O
product | 3-[3-(4-Methoxyphenyl)methyl-1,2,4-oxadiazol-5-yl]propanoic acid | COC1=CC=C(C=C1)CC1=NOC(=N1)CCC(=O)O | C13H14N2O4
